US09102669B2
Step 4: 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline
In a two-neck flask was placed 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline, prepared as in STEP 3 above (2.33 g, 7 mmol, 1 equiv), 1-methylpyrazole-4-boronic acid pinacol ester (1.75 g, 8.4 mmol, 1.2 equiv), K2CO3 (3.86 g, 28 mmol, 4.0 equiv), and Pd(PPh3)4 (809 mg, 0.7 mmol, 0.1 equiv). The resulting mixture was degassed and refilled with N2 (3 times). 1,4-Dioxane/H2O (30 mL/6 mL) was added and the resulting mixture was heated at 100° C. for 3 h. The resulting mixture was poured into EtOAc/H2O (100 mL/100 mL). The organic layer was washed with brine (100 mL), dried (Na2SO4), and filtered. The solvent was removed by roto-evaporator, and the resulting residue was purified by column using EtOAc as the eluent to yield the title compound as a solid.

reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
reactant | 1-methylpyrazole-4-boronic acid pinacol ester | 8.4 mmol, 1.75 g, 1.2 equiv | CN1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | K2CO3 | 28 mmol, 3.86 g, 4.0 equiv | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.7 mmol, 809 mg, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)C | C21H23FN6
